US05374641
1.95 g of ethyl 4-[3-oxo-3-(3-pyridyl)propyl]phenoxyacetate and 5.00 g of ammonium formate were stirred at 165° C. for 1.5 hours. To the reaction mixture was added aqueous sodium hydrogencarbonate solution, which was then extracted with ethyl acetate, and the organic phases combined were washed in saturated aqueous sodium chloride, dried over magnesium sulfate, and the solvent was then distilled off. The obtained residue was subjected to chromatography on a silica gel column, and from a fraction eluted with methanol-methylene chloride (5:95 v/v) was obtained 0.95 g of ethyl 4-[3-formamido-3-(3-pyridyl)propyl]phenoxyacetate.

reactant | ethyl 4-[3-oxo-3-(3-pyridyl)propyl]phenoxyacetate | 1.95 g | O=C(CCC1=CC=C(OCC(=O)OCC)C=C1)C=1C=NC=CC1 | C18H19NO4
reactant | ammonium formate | 5.00 g | C(=O)[O-].[NH4+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | ethyl 4-[3-formamido-3-(3-pyridyl)propyl]phenoxyacetate | 0.95 g | C(=O)NC(CCC1=CC=C(OCC(=O)OCC)C=C1)C=1C=NC=CC1 | C19H22N2O4
